US07217697B2
4-[2-(3-Bromobenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole
The title compound was prepared in a similar manner to that described in Example 11 using 3-(β-D-glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole instead of 3-(β-D-glucopyranosyloxy)-4-(2-hydroxybenzyl)-1-(2-hydroxyethyl)-5-trifluoromethyl-1H-pyrazole and using 3-bromobenzyl bromide instead of benzyl bromide.

reactant | 3-(β-D-glucopyranosyloxy)-4-(2-hydroxybenzyl)-5-isopropyl-1H-pyrazole | [C@@H]1([C@H](O)[C@@H](O)[C@H](O)[C@H](O1)CO)OC1=NNC(=C1CC1=C(C=CC=C1)O)C(C)C | C19H26N2O7
reactant | 3-bromobenzyl bromide | BrC=1C=C(CBr)C=CC1 | C7H6Br2
product | 4-[2-(3-Bromobenzyloxy)benzyl]-3-(β-D-glucopyranosyloxy)-5-isopropyl-1H-pyrazole | BrC=1C=C(COC2=C(CC=3C(=NNC3C(C)C)O[C@H]3[C@H](O)[C@@H](O)[C@H](O)[C@H](O3)CO)C=CC=C2)C=CC1 | C26H31BrN2O7
